US04837327
A solution of 0.24 mL (1.8 mmol) of diethylaminosulfur trifluoride in 5 mL of dichloromethane was cooled to -78° C. (dry ice-acetone bath) and treated dropwise with a solution of 0.50 g (1.6 mmol) of 2,2-difluoro-1-(4-methylphenyl)-2-phenylsulfonylethanol in 2 mL of dichloromethane. The cooling bath was removed, and 30 minutes later 2 mL of saturated NaHC03 was added with vigorous stirring. The organic layer was removed, washed with one 2 mL portion of water, dried (MgS04), and concentrated in vacuo to give a residue which was crystallized from toluene-hexane, affording 0.36 g (71% yield) of 2-(4-methylphenyl)-1-phenylsul- fonyl-1,1,2-trifluoroethane; mp 80-82.C; IR (KBr) 2924, 1447, 1352, 1185, 1163, 1117, 1054, 1013, 787, 757, 720, 686, 603, 567, 533, cm-1 ; 1H NMR (CDCl3) δ2.36 (s, 3H), 6.10 (ddd, lH, JHF =44, 18, 5 Hz), 7.16-8.07 (m, 9H); 19F NMR (CDCl3, relative to CFCl3) -44.0 ppm (dt, lF J =44, 16 Hz), -109.3 ppm (dd, IF, J =247, 15 Hz), -118.8 ppm (dt, IF, J =248, 17 Hz); mass spectrum (70 eV) m/e (relative intensity) 314 (11, M+), 172 (41), 123 (100), 77 (31). Anal. Calcd. for C15H13F3O2S: C, 57.32; H, 4.17. Found: C, 56.90; H, 4.47.

reactant | diethylaminosulfur trifluoride | 1.8 mmol, 0.24 mL | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | 2,2-difluoro-1-(4-methylphenyl)-2-phenylsulfonylethanol | 1.6 mmol, 0.50 g | FC(C(O)C1=CC=C(C=C1)C)(S(=O)(=O)C1=CC=CC=C1)F | C15H14F2O3S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 2-(4-methylphenyl)-1-phenylsul- fonyl-1,1,2-trifluoroethane | 0.36 g, 71% yield | CC1=CC=C(C=C1)C(C(F)(F)S(=O)(=O)C1=CC=CC=C1)F | C15H13F3O2S
